US03987098
Aniline (7.70 g) was added to a solution of 3.83 g of tetrakis(hydroxymethyl)phosphonium chloride (THPC) in 75 ml of ethanol. There was a mild exotherm, followed immediately by the separation of solids. The mixture was stirred for 2 hours and then filtered, giving 9.15 g (93.0 percent yield) of tetrakis(anilinomethyl)phosphonium chloride, m.p. 129°-130°, as a white crystalline solid that yellowed rapidly on exposure to light. No further solids separated from the filtrate in the next 5 hours. The filtrate and washings, stripped under vacuum, left 1.15 g of a yellow oil containing the remainder of the product and the unreacted aniline.

reactant | Aniline | 7.70 g | NC1=CC=CC=C1 | C6H7N
reactant | tetrakis(hydroxymethyl)phosphonium chloride | 3.83 g | [Cl-].OC[P+](CO)(CO)CO
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | tetrakis(anilinomethyl)phosphonium chloride | 9.15 g, 93.0 percent yield | [Cl-].N(C1=CC=CC=C1)C[P+](CNC1=CC=CC=C1)(CNC1=CC=CC=C1)CNC1=CC=CC=C1 | InChI=1S/C28H32N4P.ClH/c1-5-13-25(14-6-1)29-21-33(22-30-26-15-7-2-8-16-26,23-31-27-17-9-3-10-18-27)24-32-28-19-11-4-12-20-28;/h1-20,29-32H,21-24H2;1H/q+1;/p-1
